US04803200
α-[[(Tetrahydrofuran-2-ylmethyl)amino]methyl]benzenemethanol
A mixture of styrene oxide (1.20 g, 0.010 mole) and tetrahydrofurfurylamine (4.05 g, 0.040 mole) was heated on a steam bath for 2 hours. After standing at ambient temperature for 60 hours the reaction mixture was dissolved in 10 ml of methanol and the solution poured into 120 ml of ice-water. The aqueous mixture was extracted with methylene chloride (50 ml). The extract was dried (over magnesium sulfate) and concentrated to give an oil which began to solidify within one hour. The material was triturated with petroleum ether to obtain 0.73 g of an off-white solid (33%). The solid was recrystallized from isooctane; m.p. 70°-72° C.

reactant | styrene oxide | 0.010 mole, 1.20 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | tetrahydrofurfurylamine | 0.040 mole, 4.05 g | C(C1CCCO1)N | C5H11NO
solvent | methanol | 10 ml | CO | CH4O
product | α-[[(Tetrahydrofuran-2-ylmethyl)amino]methyl]benzenemethanol | 0.73 g, 33% | O1C(CCC1)CNCC(O)C1=CC=CC=C1 | C13H19NO2
